Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Metoprolol / Propranolol / lisinopril / atorvastatin / 
Beta-Blockers (Beta-Adrenergic Blocking Agts) / Crestor
 
Attending: ___.
 
Chief Complaint:
Left lower extremity pain
 
Major Surgical or Invasive Procedure:
1. Thrombectomy of bypass graft via direct exposure of graft.
2. Catheter placement in the abdominal aorta.
3. Abdominal aortogram.
4. Left lower extremity angiogram.
5. Placement of a 7 x 40 and 7 x 20 complete stent across 
proximal femoral anastomosis.
6. Placement of a 7 x 40 Zilver stent in distal bypass graft.

 
History of Present Illness:
___ M with significant vascular hx, including AAA repair and
LLE bypass s/p revision most recently in ___ presents for eval
for LLE pain that started several days ago. Pt states that on
___ noticed sudden onset of pain with activity, 
relieved
by rest. States that it feels similar to but less intense to 
pain
during previous bypass failure. Does not report any skin changes
or recent trauma. Denies any fevers, chills, NVD, headache, 
chest
pain, SOB, numbness/tingling. In no acute distress today. Of
note, recently (within last 3 months) started Pradaxa from
warfarin. 
 
Past Medical History:
severe PAD with failed bypass, 
Hypertension, CAD, Barrett's esophagitis with reflux, type 2 
diabetes, osteoarthritis, and carotid stenosis.

Past Surgical History: AAA repair (aortobiiliac ___, 
bilateral popliteal aneurysm bypass (RLE SFA to BK pop w/ vein 
graft, LLE SFA to BK pop w/ prosthetic graft ___, open 
appendectomy remotely, and CABGx4 ___, as well a LLE ORIF of 
fracture; R SFA/Pop stents x3 ___ ___ L CFA stents 
x4 ___ (___)

 
Social History:
___
Family History:
No history of gall stones/cholecystitis in family. Father died 
of MI. Mother died of cancer, unknown. 
 
Physical Exam:
Vitals: T 97.6 HR 84 BP 150/90 RR 18 96% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, well healed sternotomy incision
PULM: Clear to auscultation b/l, no resp distress
ABD: Soft, nondistended, nontender, no rebound or guarding,
well healed midline surgical incision
Neuro: Grossly intact, decreased sensation in feet bilaterally
Ext: No ___ edema, warm and well perfused with well healed
scars from prior bypass; well-approximated medial thigh wound 
with dermabond without bleeding or drainage; b/l femoral and 
popliteal pulses and ___ signals
 
Pertinent Results:
___ 09:00PM BLOOD WBC-8.9 RBC-3.80* Hgb-11.6* Hct-35.5* 
MCV-93 MCH-30.5 MCHC-32.7 RDW-13.4 RDWSD-45.7 Plt ___
___ 07:25AM BLOOD WBC-7.4 RBC-3.49* Hgb-10.8* Hct-32.9* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-13.2 RDWSD-45.5 Plt ___
___ 07:35AM BLOOD WBC-10.4* RBC-3.78* Hgb-11.7* Hct-35.6* 
MCV-94 MCH-31.0 MCHC-32.9 RDW-13.4 RDWSD-46.3 Plt ___
___ 08:00PM BLOOD WBC-8.4 RBC-3.98* Hgb-12.2* Hct-37.1* 
MCV-93 MCH-30.7 MCHC-32.9 RDW-13.3 RDWSD-45.3 Plt ___
___ 06:47PM BLOOD Neuts-56.2 ___ Monos-11.0 
Eos-7.5* Baso-0.8 Im ___ AbsNeut-4.82 AbsLymp-2.02 
AbsMono-0.94* AbsEos-0.64* AbsBaso-0.07
___ 09:00PM BLOOD Plt ___
___ 09:15AM BLOOD PTT-62.3*
___ 07:25AM BLOOD Plt ___
___ 09:00PM BLOOD Glucose-343* UreaN-26* Creat-1.4* Na-133 
K-4.6 Cl-97 HCO3-20* AnGap-21*
___ 07:25AM BLOOD Glucose-225* UreaN-23* Creat-1.5* Na-136 
K-4.4 Cl-106 HCO3-21* AnGap-13
___ 07:35AM BLOOD Glucose-128* UreaN-22* Creat-1.4* Na-133 
K-4.8 Cl-97 HCO3-22 AnGap-19
___ 09:00PM BLOOD CK(CPK)-214
___ 09:00PM BLOOD CK-MB-4 cTropnT-<0.01
___ 09:00PM BLOOD Calcium-9.7 Phos-3.2 Mg-2.0
___ 07:25AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.0
___ 07:35AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.2
___ 06:47PM BLOOD LtGrnHD-HOLD

Imaging:
___ 
LLE arterial duplex

Final read pending, prelim read shows occlusion of graft

___
Carotid duplex

Final read pending, prelim read:
Stenosis    Internal/common ratio
R: 60.7%    3.0
L: 90.8%    4.___ man with femoral to anterior tibial artery bypass 
graft with PTFE performed ___ years ago, presents with several 
days of left lower extremity pain and is found to have an acute 
left femoral to anterior tibial artery bypass graft thrombosis. 
He was brought to the operating room where he underwent a   
thrombectomy of the bypass graft via direct exposure of the 
graft with placement of a complete stent across the proximal 
femoral anastomosis, in addition to a Zilver stent in the distal 
bypass graft. He tolerated the procedure well without 
complications (please see operative report for further details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further postoperative management. 
His pain was well-controlled with IV analgesics which were 
transitioned to PO was the patient started having oral intake. 
His vital signs, wound site and circulatory flow to the lower 
extremities were routinely monitored during the patient’s length 
of stay. He demonstrated bilateral femoral and popliteal pulses 
and ___ signals. The patient was encouraged to sit and get out 
of bed and use the incentive spirometer. He was advanced to a 
regular diet which tolerated without difficulties. On 
___, the patient was discharged home. At discharged, he 
was tolerating a regular diet, had normal bowel and bladder 
function, and was ambulating independently. The patient was 
started on Plavix and he will follow-up in the clinic in four 
weeks. This information was communicated to the patient directly 
prior to discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. aMILoride 5 mg PO DAILY 
2. BuPROPion (Sustained Release) 200 mg PO BID 
3. Dabigatran Etexilate 75 mg PO BID 
4. Fenofibrate 160 mg PO DAILY 
5. GlipiZIDE 5 mg PO DAILY 
6. HYDROcodone-acetaminophen ___ mg oral DAILY:PRN up to 
three per day  
7. Hydrocortisone (Rectal) 2.5% Cream 1 Appl PR QHS 
8. Losartan Potassium 100 mg PO DAILY 
9. MetFORMIN (Glucophage) 500 mg PO BID 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN pain  
11. Pantoprazole 40 mg PO Q24H 
12. verapamil 240 mg oral ER PO BID  
13. Acetaminophen 1000 mg PO DAILY:PRN Pain - Mild 
14. Aspirin 81 mg PO DAILY 
15. Calcium Carbonate 1200 mg PO DAILY 
16. coenzyme Q10 10 mg oral DAILY 
17. Multivitamins 1 TAB PO DAILY 
18. glucosamine-chondroitin unknown strength  oral DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY Duration: 30 Days 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO DAILY:PRN Pain - Mild  
3.  aMILoride 5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  BuPROPion (Sustained Release) 200 mg PO BID  
6.  Calcium Carbonate 1200 mg PO DAILY  
7.  coenzyme Q10 10 mg oral DAILY  
8.  Dabigatran Etexilate 75 mg PO BID  
9.  Fenofibrate 160 mg PO DAILY  
10.  GlipiZIDE 5 mg PO DAILY  
11.  glucosamine-chondroitin unknown  oral DAILY  
12.  HYDROcodone-acetaminophen ___ mg oral DAILY:PRN up to 
three per day   
13.  Hydrocortisone (Rectal) 2.5% Cream 1 Appl PR QHS  
14.  Losartan Potassium 100 mg PO DAILY  
15.  MetFORMIN (Glucophage) 500 mg PO BID  
16.  Multivitamins 1 TAB PO DAILY  
17.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN pain   
18.  Pantoprazole 40 mg PO Q24H  
19.  Verapamil 240 mg oral ER PO BID   

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute left femoral to anterior tibial artery bypass graft 
thrombosis.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ and 
underwent a revision femoral-popliteal bypass. You have now 
recovered from surgery and are ready to be discharged. Please 
follow the instructions below to continue your recovery:

MEDICATION:
•Take Aspirin 325mg (enteric coated) once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
•When you go home, you may walk and use stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 1 
week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___